US09388199B2
C. ((R)-1,3,3-Trimethyl-butyl)-carbamic acid tert-butyl ester
To a solution of methanesulfonic acid (S)-2-tert-butoxycarbonylamino-4,4-dimethyl-pentyl ester (250 mg, 0.380 mmol) under nitrogen atmosphere in DME (4 mL) were added successively sodium iodide (569 mg, 3.80 mmol) and zinc powder (248 mg, 3.80 mmol). The dark mixture was stirred at RT overnight. After completion of the reaction a saturated aqueous solution of NH4Cl (3 mL) was slowly added, followed by CH2Cl2 (3 mL) and the resulting biphasic mixture was stirred at RT for 30 min. Few crystals of Na2S were added and the mixture was further stirred for 1 h. The mixture was filtered through a pad of celite, the organic layer was separated, washed with brine, dried (Na2SO4), filtered and concentrated. The crude mixture was purified by flash chromatography on silica gel (c-hexane to c-hexane/EtOAc 8:2) the desired material as a white powder. TLC, Rf (c-hexane/EtOAc 1:1): 0.50; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 6.60 (d, 1H), 3.61 (m, 1H), 1.42 (dd, 1H), 1.38 (s, 9H), 1.15 (dd, 1H), 1.00 (d, 3H), 0.88 (s, 9H).

reactant | methanesulfonic acid (S)-2-tert-butoxycarbonylamino-4,4-dimethyl-pentyl ester | 0.380 mmol, 250 mg | C(C)(C)(C)OC(=O)N[C@H](COS(=O)(=O)C)CC(C)(C)C | C13H27NO5S
reactant | sodium iodide | 3.80 mmol, 569 mg | [I-].[Na+]
reactant | NH4Cl | 3 mL | [NH4+].[Cl-]
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DME | 4 mL | COCCOC | C4H10O2
catalyst | zinc | 3.80 mmol, 248 mg | [Zn] | Zn
product | ((R)-1,3,3-Trimethyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(C)(C)C)C)=O | C12H25NO2
